US07074801B1
(4-{4-[3-(5-Methylsulfanylthiophen-2-yl)imidazo[1,2-a]-pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl}phenyl)methanol
124 mg of the title compound was obtained as a pale yellow solid by the same method as in Example 359 from 196 mg of the mixture of methyl 4-{4-[3-(5-methylsulfanylthiophen-2-yl)-imidazo[1,2-a]pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl}benzoate and ethyl 4-{4-[3-(5-methylsulfanylthiophen-2-yl)imidazo[1,2-a]pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl]benzoate obtained in the synthesis process in Example 375.

reactant | methyl 4-{4-[3-(5-methylsulfanylthiophen-2-yl)-imidazo[1,2-a]pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl}benzoate | CSC1=CC=C(S1)C1=CN=C2N1C=C(C=C2)C=2C(=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C42H32N4O2S2
reactant | ethyl 4-{4-[3-(5-methylsulfanylthiophen-2-yl)imidazo[1,2-a]pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl]benzoate | CSC1=CC=C(S1)C1=CN=C2N1C=C(C=C2)C=2C(=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=C(C(=O)OCC)C=C2 | C43H34N4O2S2
product | (4-{4-[3-(5-Methylsulfanylthiophen-2-yl)imidazo[1,2-a]-pyridin-6-yl]-1-trityl-1H-pyrazol-3-yl}phenyl)methanol | 124 mg | CSC1=CC=C(S1)C1=CN=C2N1C=C(C=C2)C=2C(=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CO | C41H32N4OS2
